US05444050
A solution of 2-(3-(2-α-D-mannopyranosyloxyphenyl)phenyl)ethanol (1.12 g, 2.46 mmol) in dichloromethane (15 ml) was added slowly to a suspension of Dess-Martin periodinane (4.95 g, 11.7 mmol) in dry dichloromethane (5 ml), and the reaction was stirred at room temperature overnight. The mixture was then diluted with ether and filtered; the filtrate was washed twice with saturated sodium bicarbonate solution and once with brine, then dried with magnesium sulfate. The solvent was removed in vacuo and the residue was purified by silica gel chromatography (4:1 hexane:ethyl acetate) to afford 2-(2-α-D-mannopyranosyloxyphenyl)phenylethanal (0.63 g, 57%).

reactant | 2-(3-(2-α-D-mannopyranosyloxyphenyl)phenyl)ethanol | 2.46 mmol, 1.12 g | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=C(C=CC=C1)C=1C=C(C=CC1)CCO | C20H24O7
reactant | Dess-Martin periodinane | 11.7 mmol, 4.95 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(2-α-D-mannopyranosyloxyphenyl)phenylethanal | 0.63 g, 57% | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=C(C=CC=C1)C1=C(C=CC=C1)CC=O | C20H22O7
